US07572808B2
Preparation of 3-((7-(4-chlorophenyl)-3-oxo-8-(pyridin-4-yl)-[1,2,4]triazolo[4,3-a]pyridin-2(3H)-yl)methyl)-6-(trifluoromethyl)picolinic acid
The title compound was also prepared as follows: A solution of methyl 3-((7-(4-chlorophenyl)-3-oxo-8-(pyridin-4-yl)-[1,2,4]triazolo[4,3-a]pyridin-2(3H)-yl)methyl)-6-(trifluoromethyl)picolinate (60 mg, 0.11 mmol) in a mixture of 1 M aqueous NaOH (1 mL) and THF (1 mL) was stirred at room temperature for 4 h. After cooling to 0° C., the reaction mixture was neutralized to pH 6-7 by addition of 1 M aqueous HCl solution, then extracted with EtOAc (30 mL×3). The combined EtOAc extracts were washed with saturated aqueous NaCl, dried (Na2SO4), filtered, and concentrated under reduced pressure to afford the title compound.

reactant | methyl 3-((7-(4-chlorophenyl)-3-oxo-8-(pyridin-4-yl)-[1,2,4]triazolo[4,3-a]pyridin-2(3H)-yl)methyl)-6-(trifluoromethyl)picolinate | 0.11 mmol, 60 mg | ClC1=CC=C(C=C1)C1=C(C=2N(C=C1)C(N(N2)CC=2C(=NC(=CC2)C(F)(F)F)C(=O)OC)=O)C2=CC=NC=C2 | C26H17ClF3N5O3
reactant | HCl | 1 M | Cl | ClH
solvent | NaOH | 1 M, 1 mL | [OH-].[Na+]
solvent | THF | 1 mL | C1CCOC1 | C4H8O
product | 3-((7-(4-chlorophenyl)-3-oxo-8-(pyridin-4-yl)-[1,2,4]triazolo[4,3-a]pyridin-2(3H)-yl)methyl)-6-(trifluoromethyl)picolinic acid | ClC1=CC=C(C=C1)C1=C(C=2N(C=C1)C(N(N2)CC=2C(=NC(=CC2)C(F)(F)F)C(=O)O)=O)C2=CC=NC=C2 | C25H15ClF3N5O3
